US08110687B2
To a solution of 3-(1-amino-1-methylethyl)-5-(trifluoromethyl)aniline (285 mg, 1.31 mmol) in DCM (13 mL) at 0° C. was added di-tert-butyl dicarbonate (314 mg, 1.44 mmol). The reaction was allowed to warm slowly to rt and stirred for 18 h. Di-tert-butyl dicarbonate (140 mg, 0.65 mmol) was added and the reaction was stirred for an additional 18 h. The solvents were evaporated and the residue was purified by column chromatography to give tert-butyl {1-[3-amino-5-(trifluoromethyl)phenyl]-1-methylethyl}carbamate (218 mg, 52.4%). LCMS: (FA) ES+ 319.3, ES− 317.8.

reactant | 3-(1-amino-1-methylethyl)-5-(trifluoromethyl)aniline | 1.31 mmol, 285 mg | NC(C)(C)C=1C=C(N)C=C(C1)C(F)(F)F | C10H13F3N2
reactant | di-tert-butyl dicarbonate | 1.44 mmol, 314 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Di-tert-butyl dicarbonate | 0.65 mmol, 140 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 13 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl {1-[3-amino-5-(trifluoromethyl)phenyl]-1-methylethyl}carbamate | 218 mg, 52.4% | NC=1C=C(C=C(C1)C(F)(F)F)C(C)(C)NC(OC(C)(C)C)=O | C15H21F3N2O2
